US05231190
A 500 mL three-necked round-bottom flask was equipped with a magnetic stirrer, a dropping funnel with a pressure-equalizing side arm, a condenser with a dry nitrogen gas inlet tube and an outlet attached to a succession of scrubbers containing 10% aqueous sodium hydroxide and 10% aqueous lead acetate. Into this flask were placed 2,6-bis(1,1-dimethylethyl)-4-methyl-selenopyrylium tetrafluoroborate (3.0 g, 8.4 mmole, prepared as in Example 4 above, 2,3,4,4-tetrachlorocyclobut-2-en-1-one (1.7 g, 8.4 mmole) and dichloromethane (150 mL). Stirring was begun and a solution of triethylamine (2.3 mL, 16 mmole) in dichloromethane (50 mL) was added dropwise over a period of 1.5 hours under nitrogen. After the addition of the triethylamine had been completed, the reaction mixture was stirred at room temperature for an additional 1.5 hours, then filtered through a sintered glass funnel containing silica gel (40 g). The silica gel was washed several times with small portions of dichloromethane until the washings were pale orange. The filtrate and washings were combined and evaporated to dryness on a rotary evaporator on a water bath kept at approximately 40° C. The residual green mass was triturated with hexane (60 mL) until maroon crystals formed; these crystals were removed by suction filtration and dried in vacuo at approximately 30° C. to yield 3-[2,6-bis(1,1-dimethylethyl)-(4H-selenopyran-4-ylidene)methyl]-2,4,4-trichloro-cyclobut-2-en-1-one (2.2 g, 60% yield).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | lead acetate | C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
reactant | 2,6-bis(1,1-dimethylethyl)-4-methyl-selenopyrylium tetrafluoroborate | F[B-](F)(F)F.CC(C)(C)C1=[Se+]C(=CC(=C1)C)C(C)(C)C
reactant | 2,3,4,4-tetrachlorocyclobut-2-en-1-one | 8.4 mmole, 1.7 g | ClC=1C(C(C1Cl)(Cl)Cl)=O | C4Cl4O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 16 mmole, 2.3 mL | C(C)N(CC)CC | C6H15N
product | 3-[2,6-bis(1,1-dimethylethyl)-(4H-selenopyran-4-ylidene)methyl]-2,4,4-trichloro-cyclobut-2-en-1-one | 2.2 g, 60% yield | CC(C)(C)C=1[Se]C(=CC(C1)=CC1=C(C(C1(Cl)Cl)=O)Cl)C(C)(C)C | C18H21Cl3OSe
